US06806274B1
1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-[1-(1-naphthyl)ethyl]urea
Using an analogous procedure to that described in Example 14, 1-(1-naphthyl)ethyl isocyanate was reacted with 4-amino-6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazoline to give the title compound; NMR Spectrum: (CDCl3) 1.41-1.57 (m, 2H), 1.76 (m, partially obscured by water peak), 1.86-2.05 (m, 5H), 2.02 (s, 3H), 2.91 (s, 2H), 3.87 (s, 3H), 4.02 (d, 2H), 5.95 (s, 1H), 7.19 (s, 1H), 7.23 (s, 1H), 7.39-7.52 (m, 3H), 7.6 (d, 1H), 7.71 (d, 1H), 7.84 (m, 1H), 8.12 (m, 1H), 8.57 (s, 1H), 8.64 (s, 1H), 10.67 (t, 1H); Mass Spectrum: M+H+ 500.

reactant | 1-(1-naphthyl)ethyl isocyanate | C1(=CC=CC2=CC=CC=C12)C(C)N=C=O | C13H11NO
reactant | 4-amino-6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazoline | NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H22N4O2
product | 1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-[1-(1-naphthyl)ethyl]urea | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)NC(=O)NC(C)C1=CC=CC2=CC=CC=C12 | C29H33N5O3
